US06835831B2
1-(Isocyano-Acetyl)-Pyrrolidine
To a stirred and cooled (0° C.) methyl isocyanoacetate (technical grade, 95%; 5.00 g, 47.8 mmol) was slowly added pyrrolidine (6.5 ml, 78 mmol). The mixture was stirred overnight with continued cooling and then concentrated. The resulting oil was repeatedly coevaporated from methylene chloride/hexane to remove residual pyrrolidine. Crude product, which was used in the next step without further purification, was thus afforded as 6.35 g (96%) of dark brown oil: 1H NMR (CDCl3) δ 4.24 (s, 2H), 3.53 (t, J=6.8, 2H), 3.41 (t, J=6.8, 2H), 2.02 (quintet, J=6.8, 2H), 1.90 (quintet, J=6.8, 2H) ppm.

reactant | methyl isocyanoacetate | 47.8 mmol, 5.00 g | [N+](#[C-])CC(=O)OC | C4H5NO2
reactant | pyrrolidine | 78 mmol, 6.5 ml | N1CCCC1 | C4H9N
product | 1-(Isocyano-Acetyl)-Pyrrolidine | 6.35 g, 96% | [N+](#[C-])CC(=O)N1CCCC1 | C7H10N2O
